US05994368
A solution of 8-hydroxy-2-methylquinoline (737 mg) in dimethylformamide was dropwise added to a solution of sodium hydride (60% in oil, 185 mg) in dimethylformamide under ice-bath cooling, and the mixture was stirred for 1 hour at the same temperature. To the mixture was added 2,6-dichloro-1-methylsulfonyloxymethyl-3-(methoxymethoxy)benzene (1.46 g) under ice-bath cooling, and the mixture was stirred for 1 hour at the same temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (ethyl acetate-n-hexane) to give 8-[2,6-dichloro-3-(methoxymethoxy)-benzyloxy]-2-methylquinoline as an oil.

reactant | 8-hydroxy-2-methylquinoline | 737 mg | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | sodium hydride | 185 mg | [H-].[Na+]
reactant | 2,6-dichloro-1-methylsulfonyloxymethyl-3-(methoxymethoxy)benzene | 1.46 g | ClC1=C(C(=CC=C1OCOC)Cl)COS(=O)(=O)C | C10H12Cl2O5S
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-[2,6-dichloro-3-(methoxymethoxy)-benzyloxy]-2-methylquinoline | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1OCOC)Cl | C19H17Cl2NO3
